* Schematics Netlist *



G_G1         0 $N_0003 $N_0001 $N_0002 1.5
R_R6         $N_0005 $N_0004  1  
V_V1         $N_0004 $N_0006 48V
I_I1         $N_0001 $N_0004 DC 6A  
H_H1         $N_0003 $N_0006 VH_H1 4
VH_H1        0 $N_0005 0V
R_R4         $N_0003 $N_0001  1  
R_R3         $N_0001 $N_0002  5  
R_R1         0 $N_0006  4  
R_R5         0 $N_0002  2  
