* Schematics Netlist *



G_G1         0 N4 N2 N5 1.5
R_R2         0 N3  4  
R_R1         N4 N2  1  
H_H1         N4 N3 VH_H1 4
VH_H1        0 N6 0V
R_R5         N6 N1  1  
R_R4         0 N5  2  
R_R3         N2 N5  5  
I_I1         N2 N1 DC 6A  
V_V1         N1 N3 48V
